US05153188
(2S,5R)-1-Allyloxycarbonyl-5-hydroxy-2-methoxycarbonylpiperidine
To a solution of 2.46 g (8.39 mmol) of (2S,5R)-1-benzyloxycarbonyl-5-hydroxy-2-methoxycarbonylpiperidine in 100 ml of methanol was added 500 mg of 5% palladium-carbon, and the mixture was hydrogenated for 2 hours at atmospheric pressure and room temperature. The catalyst was removed by filtration, and the filtrate was concentrated. The residue was dissolved in 20 ml of dichloromethane. To this solution was dropwise added 1.3 ml (9.33 mmol) or triethylamine followed by 0.98 ml (9.24 mmol) of allyl chloroformate. After stirring for 2 hours, 1.3 ml (9.33 mmol) of triethylamine and 0.98 ml (9.24 mmol) of allyl chloroformate were additionally added to the mixtures, which was stirred for 1 hours. To the mixture was added 200 ml of ethyl acetate, the organic layer was washed successively with water, 1N potassium bisulfate, water, saturated aqueous sodium bicarbonate, water and saturated aqueous sodium chloride. After drying over anhydrous sodium sulfate, the solvent was removed. The residue was purified by silica gel column chromatography (Wakogel®C-300, elution with ethyl acetate - hexane system) to give 1.14 g (yield: 55 %) of the title compound.

reactant | (2S,5R)-1-benzyloxycarbonyl-5-hydroxy-2-methoxycarbonylpiperidine | 8.39 mmol, 2.46 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC[C@H](C1)O)C(=O)OC | C15H19NO5
reactant | allyl chloroformate | 9.24 mmol, 0.98 ml | ClC(=O)OCC=C | C4H5ClO2
reactant | triethylamine | 9.33 mmol, 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | allyl chloroformate | 9.24 mmol, 0.98 ml | ClC(=O)OCC=C | C4H5ClO2
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium-carbon | 500 mg | [C].[Pd]
product | (2S,5R)-1-Allyloxycarbonyl-5-hydroxy-2-methoxycarbonylpiperidine | 1.14 g, yield: 55 % | C(C=C)OC(=O)N1[C@@H](CC[C@H](C1)O)C(=O)OC | C11H17NO5
